US04623649
In a pressure vessel, 1.08 g (3 mmol) of 6-iodo-4-methyl-β-carboline-3-carboxylic acid ethyl ester is heated to 140° C. for 3 hours with 72 mg (0.06 mmol) of palladium(II) acetate, 0.48 ml (3.6 mmol) of triethylamine, and 432 mg (4.5 mmol) of 2-cyclohexen-1-one in 10 ml of absolute dimethylformamide. After concentration, the mixture is chromatographed over silica gel with methylene chloride:ethanol=10:2. After recrystallization of the combined polar fractions from methylene chloride/cyclohexane, 75 mg (6.7% of theory) of 6-(1-oxo-2-cyclohexen-3-yl)-4-methyl-β-carboline-3-carboxylic acid ethyl ester is obtained, mp 245°-248° C. After recrystallization from ethyl acetate, the combined nonpolar fractions, which are chromatographed twice over silica gel with toluene:glacial acetic acid:water=10:10:1, yield 60 mg (5.8% of theory) of 6-(1-oxocyclohex-3-yl)-4-methyl-β-carboline-3-carboxylic acid ethyl ester, mp 182°-189° C.

reactant | 6-iodo-4-methyl-β-carboline-3-carboxylic acid ethyl ester | 3 mmol, 1.08 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)I | C15H13IN2O2
reactant | triethylamine | 3.6 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | 2-cyclohexen-1-one | 4.5 mmol, 432 mg | C1(C=CCCC1)=O | C6H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.06 mmol, 72 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(1-oxo-2-cyclohexen-3-yl)-4-methyl-β-carboline-3-carboxylic acid ethyl ester | 75 mg, 6.7% | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)C1=CC(CCC1)=O | C21H20N2O3
